* Development OP, double-injection Middlebrook loop gain, and input-noise scenario:
* FF, 1.80 V, and 125 C.
.lib "/opt/sky130/continuous/sky130.lib.spice" ff
.include "/app/circuit.spi"
.options reltol=2e-4 abstol=1e-12 vntol=1e-6
.temp 125
VSS vss 0 0
VDDP vddp vss 1.8
IBIASP vddp ibias_p 50u
VINP vinp_p vss 0.9 AC 0
VTESTP vout_p vinn_p DC 0 AC 0
XOTAP vss ibias_p vddp vinn_p vinp_p vout_p ota_5t
CLP vout_p vss 1p

VDDV vddv vss 1.8
IBIASV vddv ibias_v 50u
VINV vinp_v vss 0.9 AC 0
VXV mv xv DC 0
VYV mv yv DC 0 AC 1
XOTAV vss ibias_v vddv xv vinp_v yv ota_5t
CLV yv vss 1p

VDDI vddi vss 1.8
IBIASI vddi ibias_i 50u
VINI vinp_i vss 0.9 AC 0
VXI mi xi DC 0
VYI mi yi DC 0
ITI 0 mi AC 1
XOTAI vss ibias_i vddi xi vinp_i yi ota_5t
CLI yi vss 1p

.control
set noaskquit
op
let power_w = abs(1.8*i(vddp))
print power_w
ac dec 100 10 10G
let tv = -v(yv)/v(xv)
let ti = i(VYI)/i(VXI)
let loop_gain = (tv*ti - 1)/(tv + ti + 2)
let loop_gain_db = vdb(loop_gain)
let loop_phase_deg = 180/PI*cph(loop_gain)
meas ac dc_gain_db FIND loop_gain_db AT=1k
meas ac ugb_hz WHEN loop_gain_db=0 FALL=1
meas ac phase_at_ugb_deg FIND loop_phase_deg WHEN loop_gain_db=0 FALL=1
let phase_margin_deg = 180+phase_at_ugb_deg
print phase_margin_deg
alter @VINP[acmag] = 1
noise v(vout_p) VINP dec 50 10 10Meg
print inoise_total
quit
.endc
.end
